US08859544B2
Ethyl 6-[(1-methoxy-2-methylindolizin-3-yl)carbonyl]-2-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate
6.7 mg (0.02 mmol) of dichloro(2,6,10-dodecatriene)-1,12-diyl ruthenium(IV) are added, at ambient temperature under an inert atmosphere, to 0.307 (0.67 mol) of ethyl 6-[(1-methoxy-2-methylindolizin-3-yl)carbonyl]-2-methyl-4-oxo-1-prop-2-en-1-yl-1,4-dihydroquinoline-3-carboxylate in 12 ml of a mixture of DMFt-butanol and water (1/1). The reaction medium is microwave-heated for 30 minutes at 120° C. and then extracted with ethyl acetate. The organic phase obtained is washed with a saturated aqueous solution of sodium chloride, dried over sodium sulphate, filtered, and concentrated under reduced pressure. The precipitate obtained is purified by silica gel column chromatography, elution being carried out with a dichloromethane/methanol (95/5) mixture. 94 mg of a yellow solid are obtained.

reactant | ethyl 6-[(1-methoxy-2-methylindolizin-3-yl)carbonyl]-2-methyl-4-oxo-1-prop-2-en-1-yl-1,4-dihydroquinoline-3-carboxylate | COC=1C(=C(N2C=CC=CC12)C(=O)C=1C=C2C(C(=C(N(C2=CC1)CC=C)C)C(=O)OCC)=O)C | C27H26N2O5
solvent | water | O | H2O
product | Ethyl 6-[(1-methoxy-2-methylindolizin-3-yl)carbonyl]-2-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate | 94 mg | COC=1C(=C(N2C=CC=CC12)C(=O)C=1C=C2C(C(=C(NC2=CC1)C)C(=O)OCC)=O)C | C24H22N2O5
